US07910740B2
{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-5-yl}-phenyl-methanol
To a solution of 100 mg (0.32 mmol) 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde in DMPU (1 ml) and tetrahydrofurane (2 ml) was added slowly 0.67 ml (1.27 mmol) 1.9 M phenyl lithium solution in diethyl ether at −72° C. under nitrogen. The reaction was warmed to 0° C. over 40 minutes. The solvent was evaporated under reduced pressure. The residue was partitioned between in ethyl acetate and 1N aqueous NaOH solution. The aqueous layer was extracted once with ethyl acetate. The combined organic layers were washed twice with water, dried over sodium sulphate, filtered and the solvent was evaporated under reduced pressure. The residue was purified on silica gel with methylene chloride/methanol 9/1 yielding 39 mg (22%) {2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-5-yl}-phenyl-methanol as a yellow oil. MS ISP (m/e): 393.0 (100) (M+H)+. 1H NMR (CDCl3, 250 MHz): δ (ppm)=7.56 (s, 1H), 7.47-6.84 (m, 11H), 5.99 (s, 1H), 3.79 (s, 3H), 2.28 (s, 3H).

reactant | 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde | 0.32 mmol, 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C=O | C15H14N4O2S
reactant | phenyl lithium | 1.27 mmol, 1.9 M, 0.67 ml | C1(=CC=CC=C1)[Li]
solvent | DMPU | 1 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | {2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-5-yl}-phenyl-methanol | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C(O)C1=CC=CC=C1 | C21H20N4O2S
